US05534529
N-{2-t-Butyl-5-[2-(oxiran-2-yl)ethyl]phenyl}-2-(9H-xanthen-9-yl)acetamide
A suspension of 690 mg (15.8 mmol) of sodium hydride (as a 55% w/w dispersion in mineral oil, which had previously been washed with hexane) in 10 ml of dimethyl sulfoxide was stirred for 30 minutes, after which 2.66 g (12.1 mmol) of trimethylsulfoxonium iodide were added. The resulting mixture was stirred for 1 hour at 40° C., and then a solution of 4.50 g (10.5 mmol) of N-[2-t-butyl-5-(3-oxopropyl)phenyl]-2-(9H-xanthen-9-yl)acetamide (prepared as described in Preparation 19) in 25 ml of tetrahydrofuran was added dropwise over a period of 5 minutes. The reaction mixture was then stirred for 1 hour, after which the reaction mixture was cooled to room temperature and then diluted with ethyl acetate. The diluted mixture was washed several times with water and once with a saturated aqueous solution of sodium chloride. The organic phase was dried over anhydrous magnesium sulfate, and the solvent was removed by distillation under reduced pressure. The resulting residue was purified by column chromatography through 250 g of silica gel, using a 9:1 by volume mixture of methylene chloride and ethyl acetate as the eluent, to give 3.00 g (yield 65%) of the title compound as crystals, melting at 156°-157° C. (after recrystallization from a mixture of ethyl acetate and hexane).

reactant | sodium hydride | 15.8 mmol, 690 mg | [H-].[Na+]
reactant | trimethylsulfoxonium iodide | 12.1 mmol, 2.66 g | [I-].C[S+](=O)(C)C
reactant | N-[2-t-butyl-5-(3-oxopropyl)phenyl]-2-(9H-xanthen-9-yl)acetamide | 10.5 mmol, 4.50 g | C(C)(C)(C)C1=C(C=C(C=C1)CCC=O)NC(CC1C2=CC=CC=C2OC=2C=CC=CC12)=O | C28H29NO3
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-{2-t-Butyl-5-[2-(oxiran-2-yl)ethyl]phenyl}-2-(9H-xanthen-9-yl)acetamide | 3.00 g, yield 65% | C(C)(C)(C)C1=C(C=C(C=C1)CCC1OC1)NC(CC1C2=CC=CC=C2OC=2C=CC=CC12)=O | C29H31NO3
